US07319099B2
(c) 1-[4-(2-Methyl-2H-tetrazol-5-yl)-phenyl]-piperazine hydrochloride
Prepared in analogy to example 4.4 (b) from 4-[4-(2-Methyl-2H-tetrazol-5-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester and hydrochloric acid in dioxane. MS (m/e): 245.1 (MH+, 100%)

reactant | 4-[4-(2-Methyl-2H-tetrazol-5-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1N=NN(N1)C | C17H24N6O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[4-(2-Methyl-2H-tetrazol-5-yl)-phenyl]-piperazine hydrochloride | Cl.CN1N=C(N=N1)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C12H16N6.ClH/c1-17-15-12(14-16-17)10-2-4-11(5-3-10)18-8-6-13-7-9-18;/h2-5,13H,6-9H2,1H3;1H
